US05698570
Synthesis of 7-(3-aminomethyl-4-t-butyloxyiminopyrrolidin-1-yl)-1-(2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid
168 mg (0.5 mmole) of 6,7-difluoro-1-(2,4-difluorophenyl)-4-oxo-1,4-dihydro-naphthyridine-3-carboxylic acid and 143 mg (0.55 mmole ) of 3-aminomethyl-4-t-butyloxyiminopyrrolidine dihydrochloride were suspended in 3 ml of dry acetonitrile. Then, 230 mg (1.5 mmole) of 1,8-diazabicyclo[5.4.0]undec-7-ene was added thereto, and the reaction mixture was stirred for 15 minutes at room temperature and then treated according to the same manner as Example 89 to obtain 203 mg (Yield: 81%) of the title compound.

reactant | 6,7-difluoro-1-(2,4-difluorophenyl)-4-oxo-1,4-dihydro-naphthyridine-3-carboxylic acid | 0.5 mmole, 168 mg | FC=1C=C2C(C(=CN(C2=NC1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C15H6F4N2O3
reactant | 3-aminomethyl-4-t-butyloxyiminopyrrolidine dihydrochloride | 0.55 mmole, 143 mg | Cl.Cl.NCC1CNCC1=NOC(C)(C)C
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.5 mmole, 230 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 7-(3-aminomethyl-4-t-butyloxyiminopyrrolidin-1-yl)-1-(2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 203 mg, Yield: 81% | NCC1CN(CC1=NOC(C)(C)C)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C24H24F3N5O4
